US08076332B2
N-(2-Aminophenyl)-4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzamide (Compound No. 2-1)
HATU (250 mg, 0.66 mmol) was added to a solution of 4-[1-(2-dimethylaminoethyl)-3-(indan-5yl)ureidomethyl] benzoic acid (Reference Compound No. 10-1, 250 mg, 0.66 mmol), o-phenylenediamine (140 mg, 1.3 mmol), and N,N-diisopropylethylamine (0.33 mL, 2.0 mmol) in DMF (5.0 mL), and then the mixture was stirred at room temperature for 16 hours. Ethyl acetate (100 mL) was added thereto, and then the whole was washed with brine (50 mL) three times. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. After the residue was purified by silica gel column chromatography (chloroform-methanol), the resulting solid was collected by filtration with ethyl acetate, and then it was dried under reduced pressure to give 230 mg of the title compound as a pale yellow-white solid. (Yield 74%)

reactant | HATU | 0.66 mmol, 250 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[1-(2-dimethylaminoethyl)-3-(indan-5yl)ureidomethyl] benzoic acid | 0.66 mmol, 250 mg | CN(CCC(C1=CC=C(C(=O)O)C=C1)NC(=O)NC=1C=C2CCCC2=CC1)C | C22H27N3O3
reactant | o-phenylenediamine | 1.3 mmol, 140 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-Aminophenyl)-4-[1-(2-dimethylaminoethyl)-3-(indan-5-yl)ureidomethyl]benzamide | 230 mg, Yield 74% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(CCN(C)C)NC(=O)NC=1C=C2CCCC2=CC1)=O | C28H33N5O2
